US09278910B2
Prepared using General Procedure 13: To a stirred solution of 4-(aminomethyl)phenol (2.0 g, 16.2 mmol) in DMF (10 mL) was added TEA (4.53 mL, 32.5 mmol) followed by tert-butyl 2-bromoacetate (2.40 mL, 16.2 mmol) added drop-wise over 30 minutes. After stirring a further 1 h at room temperature, the reaction mixture was diluted with EA (100 mL) and washed with water (2×100 mL). The organics were isolated and pre-absorbed onto silica gel then purified by silica gel chromatography (EA/isohexanes) to afford 1.86 g (48%) tert-butyl 2-((4-hydroxybenzyl)amino)acetate INT-22 as a white powder. LCMS-ESI (m/z) calculated for C13H19NO3: 237 found 236 [M−H]−, tR=1.20 min (Method 10). 1H NMR (400 MHz, DMSO) δ 9.24 (s, 1H), 7.12-7.05 (m, 2H), 6.73-6.66 (m, 2H), 3.55 (s, 2H), 3.12 (s, 2H), 2.15 (s, 1H) 1.41 (s, 9H).

reactant | 4-(aminomethyl)phenol | 16.2 mmol, 2.0 g | NCC1=CC=C(C=C1)O | C7H9NO
reactant | tert-butyl 2-bromoacetate | 16.2 mmol, 2.40 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EA | 100 mL | CC(OCC)=O | C4H8O2
product | tert-butyl 2-((4-hydroxybenzyl)amino)acetate | 1.86 g, 48% | OC1=CC=C(CNCC(=O)OC(C)(C)C)C=C1 | C13H19NO3
